US08110588B2
N-{4-[5-Amino-1-(2-fluoro-4-trifluoromethyl-phenyl)-1H-[1,2,3]triazol-4-yl]-phenyl}-acetamide (11)
To a stirred and ice-cooled solution of potassium tert-butoxide (0.432 g, 3.6566 mmol) in tert-butanol (15 ml), commercial 4-acetamidophenylacetonitrile (0.5096 g, 2.9252 mmol) and 1-azido-2-fluoro-4-trifluoromethyl-benzene (0.500 g, 2.4377 mmol) are added under a nitrogen atmosphere and the reaction mixture is allowed to attain spontaneously room temperature (1 h) and finally refluxed for 6 h. The resulting reaction mixture is concentrated, added water, and extracted with ethylacetate (3×100 ml). The combined organic layers are dried over MgSO4, filtered and evaporated, to afford a dark brown gummy material (0.900 g, 97% mass balance). The crude residue is purified by column chromatography over silica gel (230-400 mesh), eluting with 50% ethylacetate in petroleum ether, to obtain the title compound as a light yellow solid (0.270 g, 30% yield). M.p. 114.8-116.2° C. LC-ESI-HRMS of [M+H]+ shows 380.1125 Da. Calc. 380.113447 Da, dev. −2.5 ppm.

reactant | potassium tert-butoxide | 3.6566 mmol, 0.432 g | CC(C)([O-])C.[K+]
reactant | 4-acetamidophenylacetonitrile | 2.9252 mmol, 0.5096 g | C(C)(=O)NC1=CC=C(C=C1)CC#N | C10H10N2O
reactant | 1-azido-2-fluoro-4-trifluoromethyl-benzene | 2.4377 mmol, 0.500 g | N(=[N+]=[N-])C1=C(C=C(C=C1)C(F)(F)F)F | C7H3F4N3
solvent | tert-butanol | 15 ml | C(C)(C)(C)O | C4H10O
product | N-{4-[5-Amino-1-(2-fluoro-4-trifluoromethyl-phenyl)-1H-[1,2,3]triazol-4-yl]-phenyl}-acetamide | 0.270 g, 30% yield | NC1=C(N=NN1C1=C(C=C(C=C1)C(F)(F)F)F)C1=CC=C(C=C1)NC(C)=O | C17H13F4N5O
